US03970652
To a stirred solution of 76.5 g (0.56 mole) of anthranilic acid in 1000 ml of pyridine at room temperature was added 197 g (1.12 mole) of m-chlorobenzoyl chloride at a rapid dropwise rate. The temperature rose to 45°-50° and, midway through the addition, a precipitate began forming. After stirring one hour at room temperature the slurry was poured into 1500 ml of water and the precipitate was filtered, washed well with water and air dried to give 139 g (96.5%) of 2-(m-chlorophenyl)-4H-3,1-benzoxazin-4-one, m.p. 158°-60°. Crystallization from ethanol gave an analytical sample, m.p. 159°-60°.

reactant | anthranilic acid | 0.56 mole, 76.5 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | m-chlorobenzoyl chloride | 1.12 mole, 197 g | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | water | 1500 ml | O | H2O
solvent | pyridine | 1000 ml | N1=CC=CC=C1 | C5H5N
product | 2-(m-chlorophenyl)-4H-3,1-benzoxazin-4-one | 139 g, 96.5% | ClC=1C=C(C=CC1)C1=NC2=C(C(O1)=O)C=CC=C2 | C14H8ClNO2
